US07947738B2
(41-h) (±) [(1S,5R,6S)-6-(aminomethyl)-2-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid
(±) [(1S,5R,6S)-6-(aminomethyl)-2-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid p-toluenesulfonate (3.17 g, 8.31 mmol) was suspended in methylene chloride (35 mL). To the suspension, triethylamine (1.27 mL, 9.14 mmol) was added with stirring at room temperature. The mixture was stirred at this temperature for 3 hours, and the deposited solid was then collected by filtration and washed with methylene chloride to obtain the compound of interest as a white solid (1.58 g, 91%, Major/Minor=3/1).

reactant | (±) [(1S,5R,6S)-6-(aminomethyl)-2-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid p-toluenesulfonate | 8.31 mmol, 3.17 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC[C@]1([C@@H]2C=CC([C@@H]2C1)CC)CC(=O)O
reactant | triethylamine | 9.14 mmol, 1.27 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
product | (±) [(1S,5R,6S)-6-(aminomethyl)-2-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid | NC[C@]1([C@@H]2C=CC([C@@H]2C1)CC)CC(=O)O | C12H19NO2
